US09315462B2
Step 5: Synthesis of 3,3,3-trifluoro-N-(2-(hydroxymethyl)-4-methoxyphenyl)propanamide
To a solution of N-(2-((tert-butyldimethylsilyloxy)methyl)-4-methoxyphenyl)-3,3,3-trifluoropropanamide (20.0 g) in anhydrous THF (200 mL) was added a solution of TBAF (16.6 g, 63.6 mmol) in anhydrous THF (60 mL). The mixture was stirred at 35° C. for 30 minutes. The mixture was quenched with ice-water. An aqueous/EtOAc workup was followed by removal of volatiles in vacuo. The crude product was purified by column chromatography on silica gel (PE/EtOAc=1/2) to give the desired product. 1H NMR (CDCl3 400 MHz): δ 8.60 (brs, 1H), 7.82 (d, J=8.8 Hz, 1H), 6.85 (dd, J=9.2, 3.2 Hz, 1H), 6.75 (d, J=2.8 Hz, 1H), 4.65 (s, 2H), 3.80 (s, 3H), 3.23 (q, J=10.4 Hz, 2H).

reactant | N-(2-((tert-butyldimethylsilyloxy)methyl)-4-methoxyphenyl)-3,3,3-trifluoropropanamide | 20.0 g | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)OC)NC(CC(F)(F)F)=O | C17H26F3NO3Si
reactant | TBAF | 63.6 mmol, 16.6 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 3,3,3-trifluoro-N-(2-(hydroxymethyl)-4-methoxyphenyl)propanamide | FC(CC(=O)NC1=C(C=C(C=C1)OC)CO)(F)F | C11H12F3NO3
